US07479502B2
3-Bromo-2-methoxybenzaldehyde (28 g, 130 mmol) was combined with trimethylorthoformate (27.5 g, 28.6 mL, 260 mmol) in methanol (150 mL) and then chlorosulfonic acid (0.5 mL) was added dropwise to the mixture. The mixture was stirred for 3 hours and then concentrated by rotoevaporation. The residue was partitioned between ethyl ether and 5% aqueous sodium bicarbonate and the organic layer was separated, washed with water and brine, dried over sodium sulfate and concentrated to give 1-bromo-3-dimethoxymethyl-2-methoxybenzene (27.5 g).

reactant | 3-Bromo-2-methoxybenzaldehyde | 130 mmol, 28 g | BrC=1C(=C(C=O)C=CC1)OC | C8H7BrO2
reactant | trimethylorthoformate | 260 mmol, 28.6 mL, 27.5 g | COC(OC)OC | C4H10O3
reactant | chlorosulfonic acid | 0.5 mL | ClS(=O)(=O)O | ClHO3S
solvent | methanol | 150 mL | CO | CH4O
product | 1-bromo-3-dimethoxymethyl-2-methoxybenzene | 27.5 g | BrC1=C(C(=CC=C1)C(OC)OC)OC | C10H13BrO3
